US07414060B2
Step 6: 6-(tert-Butyl-dimethyl-silanyloxymethyl)-3-(pyrimidin-5-ylamino)-pyridine-2-carboxylic acid (4-methyl-thiazol-2-yl)-amide:
Palladium catalysed arylation of 3-Amino-6-(tert-butyl-dimethyl-silanyloxymethyl)-pyridine-2-carboxylic acid (4-methyl-thiazol-2-yl)-amide with 5-Bromopyrimidine according to the general procedure described in example 4 step 4 yielded the title product as a light yellow solid, MS (ISP): m/e=457.3 (M+H+).

reactant | 3-Amino-6-(tert-butyl-dimethyl-silanyloxymethyl)-pyridine-2-carboxylic acid (4-methyl-thiazol-2-yl)-amide | CC=1N=C(SC1)NC(=O)C1=NC(=CC=C1N)C(O[SiH2]C(C)(C)C)(C)C | C17H26N4O2SSi
reactant | 5-Bromopyrimidine | BrC=1C=NC=NC1 | C4H3BrN2
catalyst | Palladium | [Pd] | Pd
product | 6-(tert-Butyl-dimethyl-silanyloxymethyl)-3-(pyrimidin-5-ylamino)-pyridine-2-carboxylic acid (4-methyl-thiazol-2-yl)-amide | CC=1N=C(SC1)NC(=O)C1=NC(=CC=C1NC=1C=NC=NC1)C(O[SiH2]C(C)(C)C)(C)C | C21H28N6O2SSi
